US05587389
Following the procedure described in Example Aa), the reaction of 4-chloro-2,3-dimethylpyridine N-oxide with 5-(2-mercaptoethyl)-4-methylthiazole in the presence of sodium hydride gives 2,3-dimethyl-4-[2-(4-methyl-5-thiazolyl)-ethylthio]pyridine N-oxide; m.p.: 135°-137° C (yield: 79%).

reactant | 4-chloro-2,3-dimethylpyridine N-oxide | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
reactant | 5-(2-mercaptoethyl)-4-methylthiazole | SCCC1=C(N=CS1)C | C6H9NS2
reactant | sodium hydride | [H-].[Na+]
product | 2,3-dimethyl-4-[2-(4-methyl-5-thiazolyl)-ethylthio]pyridine N-oxide | yield: 79% | CC1=[N+](C=CC(=C1C)SCCC1=C(N=CS1)C)[O-] | C13H16N2OS2
